US04071625
A solution of 19-trimethylsiloxy-5α-androstane-3β,17β-diol diacetate in ether is added to a lithium aluminum hydride suspension in ether. After refluxing for one hour, the excess hydride is destroyed with water. The ether solution is separated, dried over sodium sulfate and concentrated under vacuum. The residue which remains is crystallized from methanol to yield 19-trimethylsiloxy-5α-androstane-3β,17β-diol.

reactant | 19-trimethylsiloxy-5α-androstane-3β,17β-diol diacetate | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO[Si](C)(C)C)OC(C)=O | C26H44O5Si
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 19-trimethylsiloxy-5α-androstane-3β,17β-diol | C[Si](OC[C@]12CC[C@@H](C[C@@H]1CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O)(C)C | C22H40O3Si
